US09283224B2
Step 2: 3-[2-Chloro-5-(trifluoromethyl)phenyl]-3-[(2,2-diethoxyethyl)amino]prop-2-enenitrile
A mixture of 3-[2-chloro-5-(trifluoromethyl)phenyl]-3-oxopropanenitrile (1.2 g, 4.8 mmol), 2-aminoacetaldehyde diethyl acetal (0.77 mL, 5.3 mmol) and toluene (30 mL) was stirred under reflux for 5 h under nitrogen atmosphere in the Dean-Stark apparatus. The mixture was evaporated in vacuo and used in the next step without further purification.

reactant | 3-[2-chloro-5-(trifluoromethyl)phenyl]-3-oxopropanenitrile | 4.8 mmol, 1.2 g | ClC1=C(C=C(C=C1)C(F)(F)F)C(CC#N)=O | C10H5ClF3NO
reactant | 2-aminoacetaldehyde diethyl acetal | 5.3 mmol, 0.77 mL | C(C)OC(CN)OCC | C6H15NO2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[2-Chloro-5-(trifluoromethyl)phenyl]-3-[(2,2-diethoxyethyl)amino]prop-2-enenitrile | ClC1=C(C=C(C=C1)C(F)(F)F)C(=CC#N)NCC(OCC)OCC | C16H18ClF3N2O2
